US08193214B2
4-[3-(4-Methyl-benzo[b]thiophen-3-ylmethyl)-imidazo[1,2-a]pyridin-2-ylsulfanyl]-butyric acid
A solution of 100 mg (0.24 mmol) of 4-[3-(4-methyl-benzo[b]thiophen-3-ylmethyl)-imidazo[1,2-a]pyridin-2-ylsulfanyl]-butyric acid methyl ester in 2 mL of THF is treated with a solution of 20 mg (0.48 mmol) of lithium hydroxide monohydrate in 1 mL of water at room temperature. The resulting mixture is heated to 40° C., and stirred at this temperature for 3 h. The reaction mixture is then cooled to room temperature and concentrated in vacuo. The residue is diluted with water and neutralized with 1N HCl solution. The product is extracted with ethyl acetate, and the organic layer is separated. The organic layer is washed with water and brine, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue is purified by flash chromatography eluting with 3˜10% methanol in dichloromethane solution to give the title compound. LCMS (ESMS): m/z 397 (M+H+)

reactant | 4-[3-(4-methyl-benzo[b]thiophen-3-ylmethyl)-imidazo[1,2-a]pyridin-2-ylsulfanyl]-butyric acid methyl ester | 0.24 mmol, 100 mg | COC(CCCSC=1N=C2N(C=CC=C2)C1CC=1C2=C(SC1)C=CC=C2C)=O | C22H22N2O2S2
reactant | lithium hydroxide monohydrate | 0.48 mmol, 20 mg | O.[OH-].[Li+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | 4-[3-(4-Methyl-benzo[b]thiophen-3-ylmethyl)-imidazo[1,2-a]pyridin-2-ylsulfanyl]-butyric acid | CC1=CC=CC=2SC=C(C21)CC2=C(N=C1N2C=CC=C1)SCCCC(=O)O | C21H20N2O2S2
